US08389511B2
tert-Butyl (3R)-3-(isopropyl{[2,2,7-trimethyl-4-(2-{[(methylamino)carbonyl]amino}ethyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate
To tert-butyl (3R)-3-[{[4-(2-aminoethyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate (200 mg) were added triphosgene (47 mg), triethylamine (0.12 ml) and chloroform (5 ml) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. After the reaction was complete, the reaction solution was concentrated, and thereto were added methylamine (0.17 ml) and chloroform (5 ml) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. After the reaction was complete, water was added to the reaction solution, and the mixture was extracted with ethyl acetate solution. The obtained ethyl acetate solution was washed with water and an aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform /methanol=9/1) to give the title compound (70 mg) as colorless amorphous.

reactant | tert-butyl (3R)-3-[{[4-(2-aminoethyl)-2,2,7-trimethyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}(isopropyl)amino]piperidine-1-carboxylate | 200 mg | NCCN1C(C(OC2=C1C=C(C(=C2)C)C(=O)N([C@H]2CN(CCC2)C(=O)OC(C)(C)C)C(C)C)(C)C)=O | C27H42N4O5
reactant | triphosgene | 47 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl (3R)-3-(isopropyl{[2,2,7-trimethyl-4-(2-{[(methylamino)carbonyl]amino}ethyl)-3-oxo-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)piperidine-1-carboxylate | 70 mg | C(C)(C)N([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C(=O)C=1C(=CC2=C(N(C(C(O2)(C)C)=O)CCNC(=O)NC)C1)C | C29H45N5O6
